data/oMe_Silver.jsonl
{"reaction_id": "NR-328_1-c1ccc(C(F)(F)F)cc1_2-c1ccc2ccccc2c1","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(c1ccc(C(F)(F)F)cc1)c1ccc2ccccc2c1"],"products_smiles": ["N(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc2ccccc2c1)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc2ccccc2c1)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc2ccccc2c1)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
{"reaction_id": "NR-322_1-c2ccc(OC)cc2_2-Br_3-C(C)(C)C_4-CCC","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(c2ccc(OC)cc2)Br","O=C(C(C)(C)C)CCC"],"products_smiles": ["C(=C(C(C)(C)C)CCC)(c2ccc(OC)cc2)Br","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](c2ccc(OC)cc2)Br","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(C(C)(C)C)(CCC)C1(c2ccc(OC)cc2)Br","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(C(C)(C)C)CCC)(c2ccc(OC)cc2)Br","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
{"reaction_id": "NR-212_1-CC_2-C_3-OC_4-C#N_5-C(F)(F)F_6-C1CCCCC1","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(CC)(C)=C(OC)(C#N)","O=C(C(F)(F)F)(C1CCCCC1)"],"products_smiles": ["C1(CC)(C)C(C(F)(F)F)(C1CCCCC1)OC1(OC)(C#N)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(CC)(C)C(C(F)(F)F)(C1CCCCC1)OC1(OC)(C#N)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
